US04529698
(B) N-(3-Methoxy-2-oxo-1-sulfo-3-azetidinyl)-2-phenylacetamide, tetrabutylammonium salt
To a stirring solution of lithium methoxide (160 mg) in 5 ml of methanol cooled to -78° C. is added a solution of N-chloro-N-(2-oxo-1-sulfo-3-azetidinyl)-2-phenylacetamide, potassium salt (149 mg) in 10 ml of dry dimethylformamide. After addition is complete, the mixture is stirred for 15 minutes at -78° C., poured into 0.5N monobasic potassium phosphate solution (100 ml), and washed three times with methylene chloride. Tetrabutylammonium bisulfate (213 mg) is added to the aqueous layer, which is then extracted three times with methylene chloride. The combined extracts are dried (sodium sulfate), and solvent is removed in vacuo giving an oil (271 mg). Chromatography of the oil on silica gel (25 g) and elution with 4% methanol:96% methylene chloride yields 149 mg of the product as an oil.

reactant | lithium methoxide | 160 mg | C[O-].[Li+]
reactant | N-chloro-N-(2-oxo-1-sulfo-3-azetidinyl)-2-phenylacetamide | ClN(C(CC1=CC=CC=C1)=O)C1C(N(C1)S(=O)(=O)O)=O | C11H11ClN2O5S
reactant | potassium | 149 mg | [K] | K
reactant | potassium phosphate | 0.5N, 100 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-Methoxy-2-oxo-1-sulfo-3-azetidinyl)-2-phenylacetamide, tetrabutylammonium salt | 271 mg | C(CCC)[N+](CCCC)(CCCC)CCCC.COC1(C(N(C1)S(=O)(=O)O)=O)NC(CC1=CC=CC=C1)=O | InChI=1S/C16H36N.C12H14N2O6S/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;1-20-12(8-14(11(12)16)21(17,18)19)13-10(15)7-9-5-3-2-4-6-9/h5-16H2,1-4H3;2-6H,7-8H2,1H3,(H,13,15)(H,17,18,19)/q+1;
